US07626042B2
(2) 5-Bromo-2-(morpholinocarbonyl)oxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide (Compound No. 77)
Using 5-bromo-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide and morpholine-4-carbonyl chloride as the raw materials, the same operation as the Example 71 gave the title compound.

reactant | 5-bromo-2-hydroxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C15H8BrF6NO2
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 5-Bromo-2-(morpholinocarbonyl)oxy-N-[3,5-bis(trifluoromethyl)phenyl]benzamide | Yield: 87.1% | BrC=1C=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)OC(=O)N1CCOCC1 | C20H15BrF6N2O4
